US05864039
4-Amino-5-chloro-N-((1-(4-(3,4-dichlorobenzylamino)butyl)piperidin-4-yl)methyl)-2-methoxybenzamide (1.9 g) as starting compound, acetaldehyde (0.26 ml) and sodium cyanoborohydride (0.3 g) were reacted and treated in the same manner as in Example 136 to give 1.1 g of 4-amino-5-chloro-N-((1-(4-(N-(3,4-dichlorobenzyl)-N-ethylamino)butyl)-piperidin-4-yl)methyl)-2-methoxybenzamide.

reactant | 4-Amino-5-chloro-N-((1-(4-(3,4-dichlorobenzylamino)butyl)piperidin-4-yl)methyl)-2-methoxybenzamide | 1.9 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCNCC2=CC(=C(C=C2)Cl)Cl)C=C1Cl)OC | C25H33Cl3N4O2
reactant | acetaldehyde | 0.26 ml | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.3 g | C(#N)[BH3-].[Na+]
product | 4-amino-5-chloro-N-((1-(4-(N-(3,4-dichlorobenzyl)-N-ethylamino)butyl)-piperidin-4-yl)methyl)-2-methoxybenzamide | 1.1 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCN(CC)CC2=CC(=C(C=C2)Cl)Cl)C=C1Cl)OC | C27H37Cl3N4O2
